US04166184
Reaction of 4-(4-benzamidobutyl)-2-phenyl-5-oxazolone according to the procedure of Example 1 (ii) but using propionic anhydride in place of acetic anhydride yields 4,8-dibenzamidooctan-3-one which on hydrolysis according to the procedure of Example 1 (iii) gives 4,8-diaminooctan-3-one. Reaction of this product with potassium thiocyanate according to the procedure of Example 1 (iv) gives the title compound.

reactant | 4-(4-benzamidobutyl)-2-phenyl-5-oxazolone | C(C1=CC=CC=C1)(=O)NCCCCC1=NC(OC1=O)C1=CC=CC=C1 | C20H20N2O3
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
product | 4,8-dibenzamidooctan-3-one | C(C1=CC=CC=C1)(=O)NC(C(CC)=O)CCCCNC(C1=CC=CC=C1)=O | C22H26N2O3
